US07151097B2
Preparation of Intermediate 4-Bromo-5-(4-chlorophenyl)-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylic Acid Ethyl Ester (I-1a)
Bromine (15 ml, 294 mmol) was added in one portion to a cooled (ice/water bath) stirred solution of 5-(4-chlorophenyl)-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester (26.6 g, 73.6 mmol) in acetic acid (300 ml). After 45 minutes, the reaction was concentrated in vacuo, the solids slurried in diethyl ether (100 ml), filtered and dried in vacuo to afford the title compound (I-1a) as a light-yellow colored solid, 29.6 g.

reactant | Bromine | 294 mmol, 15 ml | BrBr | Br2
reactant | 5-(4-chlorophenyl)-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 73.6 mmol, 26.6 g | C(C)OC(=O)C1=NN(C(=C1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H14Cl2N2O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-5-(4-chlorophenyl)-1-(2-chlorophenyl)-1H-pyrazole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=NN(C(=C1Br)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H13BrCl2N2O2
